US07074819B2
Step 4) Synthesis of (4,4,5,5,5-pentafluoropentyl)benzylamine
4,4,5,5,5-Pentafluoropentyloxytoluenesulfonate (1 g, 3 mmol) was dissolved in acetonitrile (10 ml). Benzylamine (646 mg, 6 mmol) and potassium carbonate (829 mg, 6 mmol) were added. The mixture was refluxed for 10 h under nitrogen atmosphere. When the reaction was completed, the mixture was cooled to room temperature. Water was added to reaction solution which was then extracted with ethyl acetate. The extracted organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to column chromatography (dichloromethane:ethyl acetate=19:1) to give 590 mg (yield: 74%) of the title compound as a pale yellow liquid.

reactant | 4,4,5,5,5-Pentafluoropentyloxytoluenesulfonate | 3 mmol, 1 g | FC(CCCOC1=C(C(=CC=C1)C)S(=O)(=O)[O-])(C(F)(F)F)F
reactant | Benzylamine | 6 mmol, 646 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | 6 mmol, 829 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | (4,4,5,5,5-pentafluoropentyl)benzylamine | 590 mg, yield: 74% | FC(CCCNCC1=CC=CC=C1)(C(F)(F)F)F | C12H14F5N
